US04794181
1-(4-Chlorophenoxy)-7,8-dimethoxy-2,3,4,5-tetrahydro-3-benzazepine (3 g, 6 mmole) was dissolved in 9 ml 95% formic acid and to this was added 8 ml 37% formaldehyde solution. The mixture was stirred at 75° C. for one hour, then was cooled, diluted with water and basified with sodium carbonate. The oil which separated was extracted with ether, washed with water, saturated NaCl, was dried (anhydrous MgSO4), filtered and evaporated to 2.1 g of an oil. This oil was converted to the maleate salt and recrystallized from isopropanol-ether to give 1.9 g (68%) of 1-(4-chlorophenoxy)-7,8-dimethoxy-3-methyl-2,3,4,5-tetrahydro-3-benzazepine maleate, d 153°-154° C.

reactant | 1-(4-Chlorophenoxy)-7,8-dimethoxy-2,3,4,5-tetrahydro-3-benzazepine | 6 mmole, 3 g | ClC1=CC=C(OC2CNCCC3=C2C=C(C(=C3)OC)OC)C=C1 | C18H20ClNO3
reactant | formaldehyde | 8 ml | C=O | CH2O
reactant | formic acid | 9 ml | C(=O)O | CH2O2
solvent | water | O | H2O
solvent | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
product | 1-(4-chlorophenoxy)-7,8-dimethoxy-3-methyl-2,3,4,5-tetrahydro-3-benzazepine maleate | 1.9 g, 68% | C(\C=C/C(=O)O)(=O)O.ClC1=CC=C(OC2CN(CCC3=C2C=C(C(=C3)OC)OC)C)C=C1 | InChI=1S/C19H22ClNO3.C4H4O4/c1-21-9-8-13-10-17(22-2)18(23-3)11-16(13)19(12-21)24-15-6-4-14(20)5-7-15;5-3(6)1-2-4(7)8/h4-7,10-11,19H,8-9,12H2,1-3H3;1-2H,(H,5,6)(H,7,8)/b;2-1-
